US07700595B2
N-[2,5-Bis(trifluoromethyl)benzyl]-3-(8-chloro-3-phenylcinnolin-4-yl)aniline
The title compound was prepared from 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine and 2,5-bis(trifluoromethyl)benzaldehyde according to the procedure of Step 5 Example 6. MS (ES) m/z 558.0.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenylamine | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)N | C20H14ClN3
reactant | 2,5-bis(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=C(C=C1)C(F)(F)F)(F)F | C9H4F6O
product | N-[2,5-Bis(trifluoromethyl)benzyl]-3-(8-chloro-3-phenylcinnolin-4-yl)aniline | FC(C1=C(CNC2=CC(=CC=C2)C2=C(N=NC3=C(C=CC=C23)Cl)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F)(F)F | C29H18ClF6N3
